US07214673B2
2-(2-Nitro-phenylamino)-5-trifluoromethyl-benzonitrile
Add cesium carbonate (1.3 g, 4 mmol) to a solution of 2-nitro-aniline (276 mg, 2 mmol) and 2-fluoro-5-trifluoromethyl-benzonitrile (378 mg, 2 mmol) in DMF (10 mL) at room temperature then stir the resulting dark red solution at room temperature for 16 hours and 2 hours at 50° C. Cool down and pour into a mixture of ice and concentrated hydrochloric acid (50 mL, v/v). Extract the aqueous phase with dichloromethane (3×300 mL), wash with water and brine and dry over MgSO4 to yield the titled compound as a yellow solid (480 mg, 80%): mp 160–161° C.; 1H NMR (CDCl3) δ 7.14 (ddd, 1H), 7.48 (dd, 1H), 7.58 (dd, 1H), 7.60 (d, 1H), 7.76 (dd, 1H), 7.92 (d, 1H), 8.27 (dd, 1H), 9.63 (bs, 1H). MS (ES/neg) m/z (rel intensity) 306.1 (100).

reactant | cesium carbonate | 4 mmol, 1.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-nitro-aniline | 2 mmol, 276 mg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-fluoro-5-trifluoromethyl-benzonitrile | 2 mmol, 378 mg | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-Nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 480 mg, 80% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F | C14H8F3N3O2
